US07078428B2
Ethyl 3-(2-butylcarbamoylphenyl)-2-methylacrylate is prepared as described in Example 30, starting with 1.17 g (5.0 mmol) of 2-(2-ethoxycarbonylpropen-1-yl)benzoic acid in 10 cm3 of dimethylformamide, a solution of 0.69 cm3 (5.0 mmol) of triethylamine, 1.64 g (5.0 mmol) of O-[(cyano(ethoxycarbonyl)methylene)amino]-1,1,3,3-tetramethyluronium tetrafluoroborate (“TOTU”) in 6 cm3 of dimethylformamide and a second solution consisting of 366 mg (5.0 mmol) of n-butylamine and 0.69 cm3 (5.0 mmol) of triethylamine in 10 cm3 of dimethylformamide. 1.13 g of ethyl 3-(2-butylcarbamoylphenyl)-2-methylacrylate are thus obtained in the form of a yellowish oil, which can be reacted in the following step without further purification.

reactant | 2-(2-ethoxycarbonylpropen-1-yl)benzoic acid | 5.0 mmol, 1.17 g | C(C)OC(=O)C(=CC1=C(C(=O)O)C=CC=C1)C | C13H14O4
reactant | triethylamine | 5.0 mmol, 0.69 cm3 | C(C)N(CC)CC | C6H15N
reactant | O-[(cyano(ethoxycarbonyl)methylene)amino]-1,1,3,3-tetramethyluronium tetrafluoroborate | 5.0 mmol, 1.64 g | F[B-](F)(F)F.C(#N)C(C(=O)OCC)=NOC(=[N+](C)C)N(C)C
reactant | n-butylamine | 5.0 mmol, 366 mg | C(CCC)N | C4H11N
reactant | triethylamine | 5.0 mmol, 0.69 cm3 | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
product | ethyl 3-(2-butylcarbamoylphenyl)-2-methylacrylate | 1.13 g | C(CCC)NC(=O)C1=C(C=CC=C1)C=C(C(=O)OCC)C | C17H23NO3
